US06048852
a) Diethyl 3-phenylpropylmalonate
An ice-cold solution of diethyl malonate (5.81 ml, 40 mmol) in dimethylformamide (60 ml) was treated portionwise with sodium hydride (1.6 g, 40 mmol 60% dispersion in oil). After 0.25 h 3-phenylpropylbromide (6.71 ml, 44 mmol) was added and the reaction stirred overnight at room temperature. Work-up and chromatography as described in Example 37a) gave the title compound as a colourless oil (10.8 g, 97%);

reactant | diethyl malonate | 40 mmol, 5.81 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 40 mmol, 1.6 g | [H-].[Na+]
reactant | 3-phenylpropylbromide | 44 mmol, 6.71 ml | C1(=CC=CC=C1)CCCBr | C9H11Br
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | Diethyl 3-phenylpropylmalonate | 10.8 g, 97% | C1(=CC=CC=C1)CCCC(C(=O)OCC)C(=O)OCC | C16H22O4
